US08076009B2
8-[1,1′-Biphenyl]-4-yl-3,7,10-triphenylfluoranthene (ETM2)
A mixture of 3-bromo-8-[1,1′-biphenyl]-4-yl-7,10-diphenylfluoranthene (7.2 g, 12 mMole), tetrakis(triphenylphosphine)palladium(0) (0.44 g, 3-mol-% based on the fluoranthene) and phenylboronic acid (1.8 g, 14 mMole), were suspended in toluene (100 mL) and stirred well with a mechanical stirrer. To this was then added 2M-Na2CO3 (14 mL) followed by ethanol (20 mL) and the mixture heated to gentle reflux for 1 hour. This mixture was then cooled to room temperature and treated with methanol (100 mL). The yellow solid was filtered off, washed well with water, methanol and ether, and then dried. Yield of product ETM2, 5.1 g. Before use in device fabrication, ETM2 was sublimed at 260° C./10−3 mm Hg.

reactant | 3-bromo-8-[1,1′-biphenyl]-4-yl-7,10-diphenylfluoranthene | 12 mMole, 7.2 g | BrC=1C=CC=2C3=C(C=C(C(=C3C3=CC=CC1C23)C2=CC=CC=C2)C2=CC=C(C=C2)C2=CC=CC=C2)C2=CC=CC=C2 | C40H25Br
reactant | fluoranthene | C1=CC=C2C=CC=C3C4=CC=CC=C4C1=C23 | C16H10
reactant | phenylboronic acid | 14 mMole, 1.8 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 14 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | methanol | 100 mL | CO | CH4O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 8-[1,1′-Biphenyl]-4-yl-3,7,10-triphenylfluoranthene | C1(=CC=C(C=C1)C=1C(=C2C3=CC=CC4=C(C=CC(C2=C(C1)C1=CC=CC=C1)=C43)C4=CC=CC=C4)C4=CC=CC=C4)C4=CC=CC=C4 | C46H30
